US06627630B1
Production of N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine Ethyl Ester Dihydrochloride
0.628 g of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester was dissolved in 10 ml of tetrahydrofuran; 1.5 ml of a 4 N hydrogen chloride solution in ethyl acetate was added, followed by concentration under reduced pressure. To the residue, 10 ml of methanol was added, followed by concentration under reduced pressure. The crystal obtained was collected and washed with ethyl acetate to yield 0.658 g of the title compound.

reactant | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester | 0.628 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C32H38N6O4
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine Ethyl Ester Dihydrochloride | 0.658 g | Cl.Cl.C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | InChI=1S/C32H38N6O4.2ClH/c1-2-41-30(39)22-34-32(40)27-23-38-29(35-27)15-14-28(36-38)33-18-9-19-37-20-16-26(17-21-37)42-31(24-10-5-3-6-11-24)25-12-7-4-8-13-25;;/h3-8,10-15,23,26,31H,2,9,16-22H2,1H3,(H,33,36)(H,34,40);2*1H
